US07084154B2
To a solution of potassium cyanide (0.74 g) in 20 mL water was added a solution of (5-methoxy-4-methyl-1H-indol-3-ylmethyl)dimethylamine (0.5 g) in 20 mL of N,N-dimethylformamide. The solution was heated to reflux for 40 min, cooled to rt, and 40 mL of ice water was added. The aqueous layer was extracted with three portions of toluene, and the combined toluene layers were washed with water and brine. The solvent was removed in vacuo and the product purified by column chromatography dichloromethane) as the mobile phase to yield (5-methoxy-4-methyl-1H-indol-3-yl)-acetonitrile (0.40 g).

reactant | potassium cyanide | 0.74 g | [C-]#N.[K+]
reactant | (5-methoxy-4-methyl-1H-indol-3-ylmethyl)dimethylamine | 0.5 g | COC=1C(=C2C(=CNC2=CC1)CN(C)C)C | C13H18N2O
solvent | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (5-methoxy-4-methyl-1H-indol-3-yl)-acetonitrile | 0.40 g | COC=1C(=C2C(=CNC2=CC1)CC#N)C | C12H12N2O
